US05703239
An ethanol (250 ml) solution of 4-ethyl cinnamic acid (34.0 g, 0.191 mol) was hydrogenareal at 60 psi over 10% Pd/C (2 g) for 2 hr. The mixture was filtered and concentrated in vacuo to give 3-(4-ethylphenyl)propionic acid as a white solid (34 g, 100%).

reactant | 4-ethyl cinnamic acid | 0.191 mol, 34.0 g | C(C)C1=CC=C(C=CC(=O)O)C=C1 | C11H12O2
catalyst | Pd/C | 2 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(4-ethylphenyl)propionic acid | 34 g, 100% | C(C)C1=CC=C(C=C1)CCC(=O)O | C11H14O2
